Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Lipitor
 
Attending: ___.
 
Chief Complaint:
abnormal stress ___
 
Major Surgical or Invasive Procedure:
Coronary artery bypass grafting (left anterior mammary artery to 
left anterior descending, saphenous vein graft to obtuse 
marginal and diagonal) ___

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of non obstructive 
coronary artery disease and hypertension who was admitted after 
a cardiac catheterization showed three vessel disease not 
ammenable to intervention. 
 
Past Medical History:
Coronary artery disease, noncritical
Hypertension
Left ear basal cell cancer s/p surgery in ___ ___
Gastro-intestinal reflux disease
Asbestosis
Erectile dysfunction
Benign prostatic hypertrophy
 
Social History:
___
Family History:
His son had a coronary artery bypass graftin at age ___.  
 
Physical Exam:
ADMISSION EXAM:
GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, 
oropharynx clear with no erythema or exudates, upper dentures. 
No xanthalesma.  
NECK: Supple with JVP of 7 cm.  
CARDIAC: RRR, normal S1, S2, +S4. No m/r/g.  
LUNGS: clear to ausculation anteriorly given that pt is on 
bedrest from cath, no crackles, wheezes or rhonchi. Resp were 
unlabored, no accessory muscle use.  
ABDOMEN: Soft, nontender, nondistended, normoactive bowel 
sounds. No HSM or tenderness. 
EXTREMITIES: warm and well perfused. No femoral bruits, cath 
site ___ dressing in place, no hematoma or ecchymosis, 
minimally tender to palpation, 2+ DP pulses
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 
Pertinent Results:
___ ECHOCARDIOGRAPHY REPORT

___       ___ MRN:   ___       TEE (Complete) 
Done ___ at 12:41:53 ___      FINAL  
Referring Physician     ___  
___.
___, Division of Cardiothorac
___  Status: Inpatient DOB: ___ 
Age (years): ___ M  Hgt (in):  
BP (mm Hg): /  Wgt (lb):  
HR (bpm):  BSA (m2):  
Indication: Intraoperative TEE for CABG  
ICD-9 Codes: ___.0 
___ Information  
Date/Time: ___ at 12:41    ___ MD: ___, MD 
___ Type: TEE (Complete) Sonographer: ___, MD 
Doppler: Full Doppler and color Doppler ___ Location: 
Anesthesia West OR cardiac 
Contrast: None Tech Quality: Adequate 
Tape #: ___-: Machine: U/S 3 
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Ventricle - Ejection Fraction:  50% to 55%  >= 55%  
Aorta - Ascending:  3.4 cm  <= 3.4 cm  
Aorta - Descending Thoracic:  *2.9 cm  <= 2.5 cm  
Aortic Valve - LVOT diam:  2.0 cm     
Mitral Valve - MVA (P ___ T):  4.7 cm2     
 
Findings  
LEFT ATRIUM: No mass/thrombus in the ___. Mild spontaneous 
echo contrast in the ___. Good (>20 cm/s) ___ ejection velocity. 
All four pulmonary veins identified and enter the left atrium. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: No ASD by 2D or color Doppler. 

LEFT VENTRICLE: Normal regional LV systolic function. Low normal 
LVEF. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal ascending aorta diameter. Focal calcifications in 
ascending aorta. Simple atheroma in aortic arch. Mildly dilated 
descending aorta. Simple atheroma in descending aorta. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
No AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. No MS. 
___ (1+) MR. 

___ VALVE: Tricuspid valve not well visualized. 
Physiologic TR. 

PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not well seen. 
Physiologic (normal) PR. 

GENERAL COMMENTS: A TEE was performed in the location listed 
above. I certify I was present in compliance with ___ 
regulations. The ___ was under general anesthesia throughout 
the procedure. No TEE related complications. The ___ appears 
to be in sinus rhythm. Results were personally reviewed with the 
MD caring for the ___.  
Conclusions  
PRE-BYPASS No mass/thrombus is seen in the left atrium or left 
atrial appendage. Mild spontaneous echo contrast is present in 
the left atrial appendage. No atrial septal defect is seen by 2D 
or color Doppler. Regional left ventricular wall motion is 
normal. Overall left ventricular systolic function is low normal 
(LVEF 50-55%). Right ventricular chamber size and free wall 
motion are normal. There are simple atheroma in the aortic arch. 
The descending thoracic aorta is mildly dilated. There are 
simple atheroma in the descending thoracic aorta. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Mild (1+) mitral regurgitation is 
seen. Dr. ___ was notified in person of the results in the 
operating room at the time of the study.

POST-BYPASS Normal biventricular systolic function. Left 
ventricular ejection fraction now 55-60%. No changes in valvular 
function. The thoracic aorta is intact after decannulation.  

 
Radiology Report CHEST (PA & LAT) Study Date of ___ 1:08 ___ 

CHEST (PA & LAT)   Clip # ___   
Reason: eval for effusion  
 Final Report 
AP PORTABLE CHEST 
  
HISTORY: Post-CABG. 
  
COMPARISON: ___. 
  
Right jugular catheter has been removed. There is no evidence of 
pneumothorax 
or vascular congestion. No significant infiltrate is seen. Heart 
is slightly 
enlarged. Pleural plaquing is again noted. 
  
IMPRESSION: No pneumothorax post-central venous line removal. 
  
 
___ 12:45PM BLOOD WBC-5.1 RBC-4.31* Hgb-13.5* Hct-39.4* 
MCV-91 MCH-31.4 MCHC-34.4 RDW-13.1 Plt ___
___ 07:35AM BLOOD WBC-5.7 RBC-4.39* Hgb-14.0 Hct-40.9 
MCV-93 MCH-31.8 MCHC-34.1 RDW-13.2 Plt ___
___ 11:46AM BLOOD WBC-8.4 RBC-3.34* Hgb-10.5*# Hct-31.0* 
MCV-93 MCH-31.4 MCHC-34.0 RDW-13.3 Plt ___
___ 02:04AM BLOOD WBC-9.2 RBC-3.02* Hgb-9.6* Hct-27.0* 
MCV-89 MCH-31.9 MCHC-35.7* RDW-13.0 Plt ___
___ 03:51AM BLOOD WBC-11.7* RBC-3.16* Hgb-10.0* Hct-29.4* 
MCV-93 MCH-31.5 MCHC-34.0 RDW-13.4 Plt ___
___ 07:05AM BLOOD WBC-9.5 RBC-3.28* Hgb-10.3* Hct-30.2* 
MCV-92 MCH-31.4 MCHC-34.2 RDW-12.6 Plt ___
___ 12:45PM BLOOD ___
___ 12:45PM BLOOD Plt ___
___ 07:05AM BLOOD Plt ___
___ 12:45PM BLOOD Glucose-102* UreaN-12 Creat-0.8 Na-141 
K-4.2 Cl-104 HCO3-28 AnGap-13
___ 07:35AM BLOOD Glucose-185* UreaN-13 Creat-0.8 Na-139 
K-4.1 Cl-99 HCO3-31 AnGap-13
___ 11:46AM BLOOD UreaN-11 Creat-0.7 Na-145 K-4.0 Cl-110* 
HCO3-25 AnGap-14
___ 02:04AM BLOOD Glucose-99 UreaN-11 Creat-0.7 Na-136 
K-4.3 Cl-102 HCO3-28 AnGap-10
___ 03:51AM BLOOD Glucose-147* UreaN-12 Creat-0.7 Na-130* 
K-4.0 Cl-93* HCO3-31 AnGap-10
___ 07:05AM BLOOD Glucose-123* UreaN-17 Creat-0.8 Na-129* 
K-4.4 Cl-90* HCO3-34* AnGap-9
___ 07:05AM BLOOD UreaN-16 Creat-0.8 Na-137 K-4.5 Cl-97
___ 12:45PM BLOOD %HbA1c-6.2* eAG-131*
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with history of hypertension who 
was admitted with one year of progressive chest pressure, found 
to have diffuse three vessel disease requiring coronary artery 
bypass grafting.  He was managed medically on the floor while 
undergoing a pre-operative work-up.  On ___ he underwent a 
coronary artery bypass grafting (left anterior mammary artery to 
left anterior descending, saphenous vein graft to obtuse 
marginal and diagonal) performed by Dr. ___.  Please see the 
operative note for details.  He tolerated the procedure well and 
was transferred in critical but stable condition to the surgical 
intensive care unit.  He extubated without incident on the same 
day. On POD #1 he was transferred to the septdown unit. His 
chest tubes and temporary pacing wires were removed per 
protocol. He was started on statin, betablockers, and gently 
diuresed toward his pre-op weight. He developed a brief episode 
of post-op afib whcih was treated with IV and po amiodarone and 
he converted back to sinus rhythm. Postoperative CXR showed a 
stable left apical pneumothorax. He was evaluated by physical 
therapy and discharge to home with ___ services was recommended. 
On POD# 4 he was cleared for discharge to home in stable 
condition. 

 
Medications on Admission:
atenolol 25 mg daily
tamsulosin 0.4mg daily
aspirin 81 mg daily
multivitamin
 
Discharge Medications:
1. furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day for 
7 days.
Disp:*7 Tablet(s)* Refills:*0*
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*0*
4. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
5. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*3*
6. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain for 2 weeks: Do not 
drive, drink alcohol, or operate machinery while taking this 
medication.
Disp:*50 Tablet(s)* Refills:*0*
7. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).  
8. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for fever/pain.  
9. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*3*
10. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
11. amiodarone 200 mg Tablet Sig: One (1) Tablet PO once a day: 
Start after finishing 400mg once daily for 7 days. Continue this 
dose until follow up with cardiologist.
Disp:*30 Tablet(s)* Refills:*2*
12. amiodarone 400 mg Tablet Sig: One (1) Tablet PO once a day 
for 7 days.
Disp:*7 Tablet(s)* Refills:*0*
13. potassium chloride 10 mEq Capsule, Extended Release Sig: One 
(1) Capsule, Extended Release PO once a day for 7 days.
Disp:*7 Capsule, Extended Release(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
coronary artery bypass grafting

CAD 3 vessel disease noncritical, Hypertension, Left ear basal 
cell CA s/p surgery in ___ ___, GERD, Asbestosis, Erectile 
dysfunction, BPH 

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesia
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage. 
Edema 1+

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___